US08293905B2
To a reaction container equipped with a dropping funnel, 24 g of 2,5-dibromopyridine and 270 ml of diethyl ether were added. The obtained solution was cooled at −70° C. and then, 62.93 mL of butyl lithium (1.61 M/hexane solution) was added dropwise thereto. The obtained mixture was stirred for 2 hours and then, a solution obtained by dissolving 18.75 mL of cyclohexyldimethylchlorosilane in 18.6 mL of diethyl ether was added dropwise thereto. The obtained mixture was stirred for 4 hours and then, 140 mL of water was added dropwise thereto at 0° C. The obtained mixture was stirred at room temperature overnight and then, 40 mL of water and 150 mL of diethyl ether were added thereto. The obtained solution was extracted three times with 150 mL of diethyl ether. The obtained organic layers were mixed and dried with magnesium sulfate. After removing magnesium sulfate by filtration, the filtrate was concentrated to obtain a crude product. The crude product was purified with silica gel column chromatography to obtain 23 g of 2-bromo-5-cyclohexyldimethylsilylpyridine. Purity: 93% (area percentage value obtained by gas chromatography analysis).

reactant | 2,5-dibromopyridine | 24 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | butyl lithium | 1.61 M, 62.93 mL | C(CCC)[Li]
reactant | cyclohexyldimethylchlorosilane | 18.75 mL | C1(CCCCC1)[Si](Cl)(C)C | C8H17ClSi
reactant | water | 140 mL | O | H2O
reactant | water | 40 mL | O | H2O
reactant | diethyl ether | 18.6 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 150 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 270 ml | C(C)OCC | C4H10O
product | 2-bromo-5-cyclohexyldimethylsilylpyridine | 23 g | BrC1=NC=C(C=C1[SiH](C)C)C1CCCCC1 | C13H20BrNSi
